US08314088B2
8-benzyl-3-(2-methylpyrrolidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
To a solution of potassium tert-butoxide (0.68 g) in DMF (5 mL) was added dropwise a solution of 2-(benzyl{[3-chloro-5-(2-methylpyrrolidin-1-yl)pyrazin-2-yl]methyl}amino)ethanol (1.82 g) in DMF (5 mL) at 0° C., and the mixture was stirred for 1.5 hr. Water (10 mL) was added, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 10→33% ethyl acetate/hexane) to give the title compound (1.38 g, 85%) as a pale-yellow oil.

reactant | potassium tert-butoxide | 0.68 g | CC(C)([O-])C.[K+]
reactant | 2-(benzyl{[3-chloro-5-(2-methylpyrrolidin-1-yl)pyrazin-2-yl]methyl}amino)ethanol | 1.82 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N1C(CCC1)C | C19H25ClN4O
reactant | Water | 10 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-benzyl-3-(2-methylpyrrolidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 1.38 g, 85% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2C(CCC2)C | C19H24N4O
